US06441237B1
N-tert.-butoxycarbonyl-3-(2,6-difluorophenyl)methoxy-2-(2,6-dimethylphenyl)-propylamine (7)
19 g (68 mmol) of N-tert.-butoxycarbonyl-3-hydroxy-2-(2,6-dimethylphenyl)-propylamine are dissolved in 150 ml CH2Cl2, mixed with 100 ml of 50% sodium hydroxide solution, 3 g of tetrabutylammonium hydrogen sulphate and 16.5 g (80 mmol) of 2,6-difluorobenzylbromide. The mixture is stirred for 3 h at ambient temperature, the organic phase is separated off and the aqueous phase is extracted once with 100 ml of dichloromethane. The combined organic phases are washed once with 50 ml of 2 N hydrochloric acid, dried and the solvent is eliminated in vacuo. The residue is crystallised from diisopropylether. Yield: 23.5 g (85.1% of theory), melting point: 100° C.

reactant | N-tert.-butoxycarbonyl-3-hydroxy-2-(2,6-dimethylphenyl)-propylamine | 68 mmol, 19 g | C(C)(C)(C)OC(=O)NCC(CO)C1=C(C=CC=C1C)C | C16H25NO3
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
reactant | 2,6-difluorobenzylbromide | 80 mmol, 16.5 g | FC1=C(CBr)C(=CC=C1)F | C7H5BrF2
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium hydrogen sulphate | 3 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | N-tert.-butoxycarbonyl-3-(2,6-difluorophenyl)methoxy-2-(2,6-dimethylphenyl)-propylamine | C(C)(C)(C)OC(=O)NCC(COCC1=C(C=CC=C1F)F)C1=C(C=CC=C1C)C | C23H29F2NO3
